US06596718B1
a) N-(2-Methoxy-5-morpholin-4-yl-phenyl)-oxalamic Acid Ethyl Ester
139 ml (1015 mmol) Diethyl oxalate were heated to 120° C. 30.3 g (145 mmol) 2-methoxy-5-morpholin-4-yl-phenylamine were added very cautiously in small quantities and the mixture was heated for 90 minutes at 180° C. After cooling to room temperature and filtration 1.5 l n-hexane were added. The resulting precipitate was collected by filtration. After washing with hexane and drying 34.4 g (77%) N-(2-methoxy-5-morpholin-4-yl-phenyl)-oxalamic acid ethyl ester was obtained as greenish crystals, mp.: 95-97° C., MS m/e (%): 309 (M+H+, 100).

reactant | Diethyl oxalate | 1015 mmol, 139 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-methoxy-5-morpholin-4-yl-phenylamine | 145 mmol, 30.3 g | COC1=C(C=C(C=C1)N1CCOCC1)N | C11H16N2O2
product | N-(2-Methoxy-5-morpholin-4-yl-phenyl)-oxalamic Acid Ethyl Ester | C(C)OC(C(=O)NC1=C(C=CC(=C1)N1CCOCC1)OC)=O | C15H20N2O5
